US05371064
A mixture of methyl 4-chloro-2-nitrobenzoate (25 g), thiophenol (20.4 g) and potassium carbonate (17.6 g) in N,N-dimethylformamide was stirred at 120° C. for five hours. Water was added and the mixture extracted with ethyl acetate. The organic phase was washed with water, dried over magnesium sulphate, filtered and evaporated. The product was recrystallised from cyclohexane to give 3.0 g of methyl 2,4-bis(phenylsulphenyl)benzoate as a beige solid, m.p. 123.9° C.

reactant | methyl 4-chloro-2-nitrobenzoate | 25 g | ClC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | thiophenol | 20.4 g | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 17.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | methyl 2,4-bis(phenylsulphenyl)benzoate | 3.0 g | C1(=CC=CC=C1)SC1=C(C(=O)OC)C=CC(=C1)SC1=CC=CC=C1 | C20H16O2S2
